US07429666B2
Step 3. (+/−)-N-[4-(Dimethylamino)benzyl]-N-(4-isopropylphenyl)-2-methoxy-5,6,7,8-tetrahydroquinoline-8-carboxamide
To a 0.22 M solution of 2-methoxy-5,6,7,8-tetrahydroquinoline in Et2O at −78° C. was added 1.7 equiv of t-BuLi [1,7M] over 5 min. After allowing the reaction to warm up to 0° C. and stirring at this temperature for 30 min, a stream of CO2(g) was then allowed to flow into the flask. The final mixture was allowed to warm to room temperature and the solvent was removed by the flow of CO2. To a solution/suspension of the resulting crude lithium carboxylate salt in DMF (12 equiv) at 0° C. was successively added 1.2 equiv of N-[4-(dimethylamino)benzyl]4-isopropylaniline, 12 equiv of 4-methylmorpholine and 4.0 equiv of 1-propylphosphonic acid cyclic anhydride (50% in EtOAc). After allowing the reaction to warm to room temperature overnight, this mixture was poured into a separatory funnel containing aqueous NaHCO3/EtOAc. The organic layer was washed with brine, dried over anhydrous MgSO4, filtered and concentrated. The crude material was further purified by flash chromatography, eluting with a gradient from 100% hexanes to 25% EtOAc/hexanes to provide the title compound as a white solid.

reactant | 2-methoxy-5,6,7,8-tetrahydroquinoline | COC1=NC=2CCCCC2C=C1 | C10H13NO
reactant | t-BuLi | 1,7M, 1.7 equiv | [Li]C(C)(C)C
reactant | CO2 | C(=O)=O | CO2
reactant | DMF | 12 equiv | CN(C)C=O | C3H7NO
reactant | N-[4-(dimethylamino)benzyl]4-isopropylaniline | 1.2 equiv | CN(C1=CC=C(CNC2=CC=C(C=C2)C(C)C)C=C1)C | C18H24N2
reactant | 4-methylmorpholine | 12 equiv | CN1CCOCC1 | C5H11NO
reactant | 1-propylphosphonic acid cyclic anhydride | 4.0 equiv | CCCP(=O)(O)O | C3H9O3P
reactant | NaHCO3 EtOAc | C(=O)(O)[O-].[Na+].CCOC(=O)C
solvent | Et2O | CCOCC | C4H10O
product | (+/−)-N-[4-(Dimethylamino)benzyl]-N-(4-isopropylphenyl)-2-methoxy-5,6,7,8-tetrahydroquinoline-8-carboxamide | CN(C1=CC=C(CN(C(=O)C2CCCC=3C=CC(=NC23)OC)C2=CC=C(C=C2)C(C)C)C=C1)C | C29H35N3O2
